### PR TITLE
[Merged by Bors] - feat(Probability/Kernel): \phi-irreducibility of kernels

### PR DESCRIPTION
**Pull request by bwangpj**
Define powers of kernels, the Chapman-Kolmogorov equations, as well as \phi-irreducibility of kernels, following Robert-Casella, "Monte Carlo Statistical Methods", Definition 6.13.

Co-authored-by: Matteo Cipollina @or4nge19 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 1]
```diff
@@ -0,0 +1,44 @@
+/-
+Copyright (c) 2025 Bryan Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bryan Wang
+-/
+import Mathlib.Probability.Kernel.Composition.Comp
+
+/-!
+# Irreducibility of kernels
+
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Irreducible.lean:12]: Here you should explain what it means for a kernel to be irreducible.
And possibly also explain what are the typical applications.

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+## Main definitions
+
+* `ProbabilityTheory.Kernel.IsIrreducible`:
+  irreducibility of a given kernel with respect to a measure `φ`.
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Irreducible.lean:25]: This is missing one of the two definitions.

File: Mathlib/Probability/Kernel/Composition/Comp.lean [hunk 3]
```diff
@@ -69,6 +70,30 @@ theorem comp_apply_univ_le (κ : Kernel α β) (η : Kernel β γ) (a : α) :
...
+noncomputable def pow (κ : Kernel α α) : ℕ → Kernel α α
+  | 0          => Kernel.id
+  | Nat.succ n => κ.pow n ∘ₖ κ
+
+@[simp] lemma pow_zero (κ : Kernel α α) : κ.pow 0 = Kernel.id := rfl
+
+@[simp] lemma pow_succ (κ : Kernel α α) (n : ℕ) : κ.pow (n + 1) = κ.pow n ∘ₖ κ := by
+  cases n <;> simp [pow]
+
+end Pow
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Composition/Comp.lean]: Could you put those definition and lemmas at the end, with the other lemmas about pow that you added?

Also please add `pow` to the definitions in the file docstring.

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 4]
```diff
@@ -0,0 +1,44 @@
...
+
+/-- `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`). -/
+def IsIrreducible (φ : Measure α) (κ : Kernel α α) : Prop :=
+  ∀ ⦃A⦄, MeasurableSet A → φ A > 0 →
+    ∃ (n : ℕ+), ∀ a, κ.pow n a A > 0
+
+/-- Strongly `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`). -/
+def IsStronglyIrreducible (φ : Measure α) (κ : Kernel α α) : Prop :=
+  ∀ ⦃A⦄, MeasurableSet A → φ A > 0 →
+    ∀ a, κ a A > 0
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/Irreducible.lean]: You wrote two definitions, but they are not really usable right now, because you did not provide any lemma about them.
When adding a def in a PR, you should also add what people call API: the set of basic lemmas about manipulating a def.

In order to add lemmas, think about :
- particular values of the arguments. Does something happen if they are 0, or the identity, or some other meaningful value?
- ways to compose arguments. Example for the measure: we can add measures or multiply them by a scalar, there is also an order on measures. Is there something to be said about the def in those cases? It's a good idea to look at the typeclasses that are registered for each argument.

Here it's also obviously missing the lemma that would say that strongly irreducible implies irreducible.

**Review by RemyDegenne — COMMENTED** [review]
Thanks for the PR!

**Comment by bwangpj** [comment]
Thank you very much for the comments! I've addressed your comments and added more API for `IsIrreducible` and `IsStronglyIrreducible`. 

-awaiting-author

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 5]
```diff
@@ -0,0 +1,102 @@
...
+namespace ProbabilityTheory
+
+variable {α β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
+
+namespace Kernel
+
+/-- `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`). -/
+@[mk_iff]
+class IsIrreducible (φ : Measure α) (κ : Kernel α α) : Prop where
+  irreducible : ∀ ⦃A⦄, MeasurableSet A → φ A > 0 → ∃ (n : ℕ+), ∀ a, κ.pow n a A > 0
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: Use \N instead of \N^+. Also, is that really the standard definition? With this definition, a Markov chain on two points a and b jumping deterministically from a to b and from b to a is not irreducible, which is strange. Also, the lazy random walk on the integers is not irreducible either (because the n would be unbounded), which is strange also.

**Review by sgouezel — COMMENTED** [review]
I'm not really convinced by your definition of irreducibility. Could you comment why this is the right notion?

File: Mathlib/Probability/Kernel/Irreducible.lean (hunk 5 above)
Comment (DavidLedvinka) [reply Mathlib/Probability/Kernel/Irreducible.lean]: The quantifiers `∃ (n : ℕ+), ∀ a` should be flipped. Then its the standard notion. (I checked the reference and it does seem to either get this wrong or be poorly worded).

Comment (bwangpj) [reply Mathlib/Probability/Kernel/Irreducible.lean]: Yes, I was simply following the reference, Robert-Casella. The definition with the quantifiers flipped implies the current definition (this is Theorem 6.15 of the reference). I am certainly happy to change the definition, (and perhaps formalise a proof of Theorem 6.15 some time down the line).

Comment (DavidLedvinka) [reply Mathlib/Probability/Kernel/Irreducible.lean]: I believe Theorem 6.15 is wrong as you are interpreting it, for example consider the examples Sebastien gives.

Comment (DavidLedvinka) [reply Mathlib/Probability/Kernel/Irreducible.lean]: I think whats possible is that the originally definition is vague and poorly worded and when they say for all `x \in X` they mean to allow for this to depend on `n`. Then in the Theorem 6.15 (i) is the definition, and they are stating these as three equivalent notions. If not then I believe the reference just made a mistake.

Comment (bwangpj) [reply Mathlib/Probability/Kernel/Irreducible.lean]: Ah ok, I was confused similarly by the wording in the reference, which I agree is wrong or at best poorly worded. I've changed the definition accordingly. Apologies about the confusion!

**Comment by sgouezel** [comment]
Since the reference you're using seems to have poor wording, maybe it's a good idea to switch already to a more established standard reference like Meyn-Tweedie?

**Comment by bwangpj** [comment]
> Since the reference you're using seems to have poor wording, maybe it's a good idea to switch already to a more established standard reference like Meyn-Tweedie?

Yes, I will do that, and I've also updated the reference to Meyn-Tweedie here.

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+
+variable {α β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
+
+namespace Kernel
+
+/-- `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`).
+Ref. *Meyn-Tweedie* Proposition 4.2.1(ii), page 89 -/
+@[mk_iff]
+class IsIrreducible (φ : Measure α) (κ : Kernel α α) : Prop where
+  irreducible : ∀ ⦃A⦄, MeasurableSet A → φ A > 0 → ∀ a, ∃ (n : ℕ+), κ.pow n a A > 0
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: Move the assumptions left of the colon, and use `ℕ` instead of `ℕ+`.

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 7]
```diff
@@ -0,0 +1,104 @@
...
+
+/-- Strongly `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`). -/
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: Do you have a reference for this definition?

**Comment by DavidLedvinka** [comment]
Meyn-Tweedie IS the canonical text but I should mention that they have a minor mistake regarding this as well (as far as I could tell). In the literature $\varphi$-irreducibility is used to mean both the proposition for a specific $\varphi$ or (more commonly in practice) that there exists such a NON-TRIVIAL $\varphi$ (this is not a convention that I like). Meyn-Tweedie both doesn't makes this distinction clearly and also starts using the latter definition without (again as far as I could tell) ever stating that we are assuming $\varphi$ to be non-trivial. I would keep the proposition as is here, but this might trip someone up trying to develop the theory further.

File: Mathlib/Probability/Kernel/Composition/Comp.lean [hunk 8]
```diff
@@ -210,5 +223,43 @@ instance IsSFiniteKernel.comp (η : Kernel β γ) [IsSFiniteKernel η] (κ : Ker
   simp_rw [← kernel_sum_seq κ, ← kernel_sum_seq η, comp_sum_left, comp_sum_right]
   infer_instance
 
+section Pow
+
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Composition/Comp.lean:226]: Instead of defining by hand a Pow function and registering its properties by hand (like k^(m+n) = k^m o k^n below), why not prove that there is a monoid structure on the kernels, to get everything for free (and the nice power notation)? Something like
```
noncomputable instance : Monoid (Kernel α α) where
  mul η κ := η ∘ₖ κ
  mul_assoc ξ η κ := comp_assoc _ _ _
  one := Kernel.id
  one_mul := id_comp
  mul_one := comp_id
```

File: Mathlib/Probability/Kernel/Composition/Comp.lean [hunk 9]
```diff
@@ -18,12 +18,15 @@ a kernel from `α` to `γ`.
 * `comp (η : Kernel β γ) (κ : Kernel α β) : Kernel α γ`: composition of 2 kernels.
   We define a notation `η ∘ₖ κ = comp η κ`.
   `∫⁻ c, g c ∂((η ∘ₖ κ) a) = ∫⁻ b, ∫⁻ c, g c ∂(η b) ∂(κ a)`
+* `pow (κ : Kernel α α) (n : ℕ) : Kernel α α`:
+  iterated `n`-fold composition of a kernel with itself.
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Composition/Comp.lean]: remove?

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 10]
```diff
@@ -0,0 +1,106 @@
...
+
+open scoped MeasureTheory ENNReal ProbabilityTheory
+
+namespace ProbabilityTheory
+
+variable {α β : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
+
+namespace Kernel
+
+/-- `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`).
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: In the docstring, you should explain what the notion is. Can you expand it?

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 11]
```diff
@@ -0,0 +1,106 @@
...
+Ref. *Meyn-Tweedie* Proposition 4.2.1(ii), page 89 -/
+@[mk_iff]
+class IsIrreducible (φ : Measure α) (κ : Kernel α α) : Prop where
+  irreducible ⦃A⦄ (hA : MeasurableSet A) (hφA : φ A > 0) a :
+    ∃ (n : ℕ), (κ ^ n) a A > 0
+
+/-- Strongly `φ`-irreducibility of a kernel `κ` (w.r.t. a measure `φ`).
+Ref. https://www.stats.ox.ac.uk/~rebeschi/teaching/AdvSim/18/notes/notes4.pdf, Definition 3.1 -/
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: That's not a proper reference. If it's not in Meyn-Tweedie or one other central reference of the field, we shouldn't probably define it unless it turns out to be extremely useful for formalization reasons.

File: Mathlib/Probability/Kernel/Irreducible.lean [hunk 12]
```diff
@@ -0,0 +1,106 @@
...
+@[mk_iff]
+class IsStronglyIrreducible (φ : Measure α) (κ : Kernel α α) : Prop where
+  strongly_irreducible ⦃A⦄ (hA : MeasurableSet A) (hφA : φ A > 0) a : κ a A > 0
+
+instance {φ : Measure α} {κ : Kernel α α} [IsStronglyIrreducible φ κ] :
+    IsIrreducible φ κ :=
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Irreducible.lean]: Could you use `where` when populating a structure, here and below?

File: Mathlib/Probability/Kernel/Irreducible.lean (hunk 11 above)
Comment (bwangpj) [reply Mathlib/Probability/Kernel/Irreducible.lean]: Ok, I will remove it for now!
